US06500835B2
1.50 g (7.03 mmol) of 4-allyloxybenzenesulfonyl isocyanate and 1.2 g (7.03 mmol) of 4-chloroanthranilic acid were treated in the same way as in Preparation Example 5 to obtain 1.5 g (yield 53%) of 3-(4-allyloxybenzenesulfonyl)-7-chloro -2,4(1H,3H)-quinazolinedione. 500 mg (1.27 mmol) thereof was similarly treated to obtain 405 g of the above-identified compound (yield 90%). Properties: colorless crystal, Melting point: >200° C. decomposition), PMR (δ ppm, DMSO-d6): 6.98 (2H, d), 7.11 (1H, s), 7.23 (1H, d), 7.85 (1H, d), 8.00 (2H, d), 11.25 (1H, br).

reactant | 4-allyloxybenzenesulfonyl isocyanate | 7.03 mmol, 1.50 g | C(C=C)OC1=CC=C(C=C1)S(=O)(=O)N=C=O | C10H9NO4S
reactant | 4-chloroanthranilic acid | 7.03 mmol, 1.2 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
product | 3-(4-allyloxybenzenesulfonyl)-7-chloro -2,4(1H,3H)-quinazolinedione | 1.5 g, yield 53% | C(C=C)OC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C17H13ClN2O5S
